US07115640B2
Preparation of 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-(ethylamino)benzo-nitrile
To a 100 mL flask was added 1-benzyl-3-(5-cyano-2-ethylaminophenyl)thiourea (1.0 g, 3.2 mmol), anhydrous ethanol (40 mL), ethyl chloroacetate (0.39 g, 3.2 mmol) and then DBU (0.58 g, 3.8 mmol). The reaction was heated at 80° C. for 30 min. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure and chromatographed (silica gel, 1:1 EtOAc/Hex) to afford the title product (0.98 g, 87%). 1H-NMR (CDCl3): δ 7.38 (6H, m), 7.11 (1H, d), 6.50 (1H, d), 5.05 (2H, s), 3.96 (2H, s), 3.01 (2H, m), 1.03 (3H, t).

reactant | 1-benzyl-3-(5-cyano-2-ethylaminophenyl)thiourea | 3.2 mmol, 1.0 g | C(C1=CC=CC=C1)NC(=S)NC1=C(C=CC(=C1)C#N)NCC | C17H18N4S
reactant | ethyl chloroacetate | 3.2 mmol, 0.39 g | ClCC(=O)OCC | C4H7ClO2
reactant | DBU | 3.8 mmol, 0.58 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-(ethylamino)benzo-nitrile | 0.98 g, 87% | C(C1=CC=CC=C1)N1C(SCC1=O)=NC=1C=C(C#N)C=CC1NCC | C19H18N4OS
